US07977334B2
0.277 g (0.500 mmol) N-(3-{1-hydroxy-2-[3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propylamino]-ethyl}-phenyl)-benzenesulphonamide, 0.807 g (0.613 mmol) 5-methylthiophene-2-boric acid, 0.031 g (0.038 mmol) [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II)-chloride (1:1 complex with dichloromethane), 2.00 mL aqueous sodium carbonate solution (2M) and 2 mL dioxane were stirred for 5 min at 150° C. in a sealed reaction vessel in a microwave. The reaction mixture was cooled to ambient temperature and then poured into 20 mL dichloromethane and 20 mL water. The phases were separated, the organic phase was washed twice with 20 mL water, dried over magnesium sulphate and the solvent was eliminated using the rotary evaporator. The residue was purified by flash column chromatography [methylene chloride/methanol (100:0→75:25)]. 0.200 g (0.381 mmol, 76%) N-[3-(2-{1,1-dimethyl-3-[4-(5-methyl-thiophen-2-yl)-imidazol-1-yl]-propylamino}-1-hydroxy-ethyl)-phenyl]-benzenesulphonamide were obtained as a beige solid.

reactant | N-(3-{1-hydroxy-2-[3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propylamino]-ethyl}-phenyl)-benzenesulphonamide | 0.500 mmol, 0.277 g | OC(CNC(CCN1C=NC(=C1)I)(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1 | C22H27IN4O3S
reactant | sodium carbonate | 2M, 2.00 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II)-chloride | 0.038 mmol, 0.031 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 20 mL | O | H2O
product | N-[3-(2-{1,1-dimethyl-3-[4-(5-methyl-thiophen-2-yl)-imidazol-1-yl]-propylamino}-1-hydroxy-ethyl)-phenyl]-benzenesulphonamide | 0.381 mmol, 0.200 g, 76% | CC(CCN1C=NC(=C1)C=1SC(=CC1)C)(C)NCC(O)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1 | C27H32N4O3S2
